US08609653B2
2-(tert-butoxy)-2-(4-(chroman-6-yl)-1-(4-methoxybenzyl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetic acid
The title compound was prepared in a manner similar to that described in Example 27, Step H from methyl 2-(tert-butoxy)-2-(4-(chroman-6-yl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetate and 4-methoxybenzyl chloride. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.50-7.42 (m, 1 H), 7.27-7.16 (m, 3 H), 7.03 (t, J=3.2 Hz, 1 H), 6.93 (dd, J=6.1, 8.3 Hz, 1 H), 6.88 (d, J=8.6 Hz, 2 H), 6.25 (dd, J=3.5, 11.3 Hz, 1 H), 5.60-5.49 (m, 2 H), 5.47-5.38 (m, 1 H), 4.28 (t, J=4.9 Hz, 2 H), 3.80 (s, 3 H), 2.95-2.79 (m, 2 H), 2.78 (s, 3 H), 2.10-2.04 (m, 2 H), 1.01-0.91 (s, 9 H); LC/MS (m/z) ES+=515.38 (M+1).

reactant | methyl 2-(tert-butoxy)-2-(4-(chroman-6-yl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetate | C(C)(C)(C)OC(C(=O)OC)C=1C(=C2C(=NC1C)NC=C2)C=2C=C1CCCOC1=CC2 | C24H28N2O4
reactant | 4-methoxybenzyl chloride | COC1=CC=C(CCl)C=C1 | C8H9ClO
product | 2-(tert-butoxy)-2-(4-(chroman-6-yl)-1-(4-methoxybenzyl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetic acid | C(C)(C)(C)OC(C(=O)O)C=1C(=C2C(=NC1C)N(C=C2)CC2=CC=C(C=C2)OC)C=2C=C1CCCOC1=CC2 | C31H34N2O5
